US07560463B2
6-[4-(2-Benzylamino-2-methyl-propyl)-phenoxy]-nicotinamide
Using a method similar to example 2, using 6-[4-(2-amino-2-methyl-propyl) phenoxy]-nicotinamide and benzyl bromide gives the title product: HPLC (30/70 to 90/10 ACN/(0.1% TFA in water) Zorbax SB-Phenyl Column 4.6 mm×15 cm×5 micron: Retention time: 3.96 minutes, Purity: 100%; mass spectrum (ion spray): m/z=376.2 (M+1).

reactant | 6-[4-(2-amino-2-methyl-propyl) phenoxy]-nicotinamide | NC(CC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1)(C)C | C16H19N3O2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 6-[4-(2-Benzylamino-2-methyl-propyl)-phenoxy]-nicotinamide | C(C1=CC=CC=C1)NC(CC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1)(C)C | C23H25N3O2
